* c:\users\kalya\esim-workspace\vedic_multi_4bit_dff_test\vedic_multi_4bit_dff_test.cir

.include vedic_multiplier_4bit.sub
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__r+c.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
.lib "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130.lib.spice" tt
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__pnp.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__inductors.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__linear.model.spice"
v1 ? gnd  dc 1.8
* u1  z8 plot_v1
* u2  z7 plot_v1
* u3  z6 plot_v1
* u4  z5 plot_v1
* u5  z4 plot_v1
* u6  z3 plot_v1
* u7  z2 plot_v1
* u8  z1 plot_v1
* u9  z0 plot_v1
* s c m o d e
* u11  b0 plot_v1
* u13  b1 plot_v1
* u15  b2 plot_v1
* u17  b3 plot_v1
* u10  a0 plot_v1
* u12  a1 plot_v1
* u14  a2 plot_v1
* u16  a3 plot_v1
v9  b3 gnd pulse(0 1.8 1m 1m 1m 1 2)
v7  b2 gnd pulse(1.8 1.8 1m 1m 1m 1 2)
v5  b1 gnd pulse(1.8 0 1m 1m 1m 1 2)
v3  b0 gnd pulse(1.8 0 1m 1m 1m 1 2)
v8  a3 gnd pulse(0 1.8 1m 1m 1m 1 2)
v6  a2 gnd pulse(0 1.8 1 1m 1m 1 2)
v4  a1 gnd pulse(1.8 1.8 1 1m 1m 1 2)
v2  a0 gnd pulse(1.8 0 0 1m 1m 1 3)
x1 a0 a1 a2 a3 b0 b1 b2 b3 z0 z1 z2 z3 z4 z5 z6 z7 z8 clk vedic_multiplier_4bit
v10  clk gnd pulse(0 1.8 0.5 1m 1m 0.5 1)
* u18  clk plot_v1
.tran 2e-03 3e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot 14+v(z7) 12+v(z6) 10+v(z5) 8+v(z4) 6+v(z3) 4+v(z2) 2+v(z1) v(z0)
plot 8+v(clk) 6+v(a3) 4+v(a2) 2+v(a1) v(a0)
plot 8+v(clk) 6+v(b3) 4+v(b2) 2+v(b1) v(b0)

.endc
.end
